US09416135B2
To a solution of 1-(1-(2-aminoethyl)-6-(methylthio)-1H-indol-2-yl)-2-methylpropan-1-one (200 mg, 0.724 mmol) in MeOH (5 mL) was added Et3N (219.3 mg, 2.172 mmol). The reaction mixture was stirred at 60° C. for 1 h. Then NaBH4 (82.53 mg, 2.172 mmol) was added to the formed mixture. The mixture was stirred at 60° C. for another 1 h. The mixture was concentrated, treated with water (10 mL) and extracted with EtOAc (20 mL×3). The combined organic layers were dried over anhydrous sodium sulfate, filtered, concentrated and purified by preparative TLC on silica gel eluted with PE/EtOAc 1:1 to afford 1-isopropyl-7-(methylthio)-1,2,3,4-tetrahydropyrazino[1,2-a]indole (80 mg, 42.46% yield, store at 0° C.) as a colorless oil. LC-MS of 1-Isopropyl-7-methylsulfanyl-3,4-dihydro-pyrazino[1,2-a]indole MS (ESI) m/z 259.1 [M+H]+. LC-MS of 1-isopropyl-7-(methylthio)-1,2,3,4-tetrahydropyrazino[1,2-a]indole MS (ESI) m/z 261.2 [M+H]+. 1H NMR (CDCl3 400 MHz): δ 7.41 (d, J=8.4 Hz, 1H), 7.20 (s, 1H), 7.05 (dd, J1=8.4 Hz, J2=1.6 Hz, 1H), 6.12 (s, 1H), 4.02-3.97 (m, 2H), 3.86-3.80 (m, 1H), 3.46-3.42 (m, 1H), 3.16-3.10 (m, 1H), 2.48 (s, 3H), 2.32-2.27 (m, 1H), 1.09 (d, J=6.8 Hz, 3H), 0.86 (d, J=6.8 Hz, 3H).

reactant | 1-(1-(2-aminoethyl)-6-(methylthio)-1H-indol-2-yl)-2-methylpropan-1-one | 0.724 mmol, 200 mg | NCCN1C(=CC2=CC=C(C=C12)SC)C(C(C)C)=O | C15H20N2OS
reactant | Et3N | 2.172 mmol, 219.3 mg | CCN(CC)CC | C6H15N
reactant | NaBH4 | 2.172 mmol, 82.53 mg | [BH4-].[Na+]
solvent | MeOH | 5 mL | CO | CH4O
product | 1-isopropyl-7-(methylthio)-1,2,3,4-tetrahydropyrazino[1,2-a]indole | 80 mg, 42.46% yield | C(C)(C)C1NCCN2C1=CC=1C=CC(=CC21)SC | C15H20N2S
